US06610736B1
3-(2-Pyridyl)-2-propin-1-ol
The mixture that consists of 16.6 ml (173 mmol) of 2-bromopyridine, 21.6 ml of propargyl alcohol, 2.5 g of palladium-bis-triphenylphosphine-dichloride and 173 mg of copper(I) iodide is mixed with 510 ml of diethylamine and heated for 1.5 hours to 80° C. After filtration and removal of the solvent, the residue is purified by chromatography on fine silica gel with a gradient system that consists of n-hexane and ethyl acetate. 17.8 g (134 mmol, 77%) of the title compound is isolated as a colorless oil.

reactant | 2-bromopyridine | 173 mmol, 16.6 ml | BrC1=NC=CC=C1 | C5H4BrN
reactant | propargyl alcohol | 21.6 ml | C(C#C)O | C3H4O
catalyst | copper(I) iodide | 173 mg | [Cu]I
solvent | diethylamine | 510 ml | C(C)NCC | C4H11N
product | 3-(2-Pyridyl)-2-propin-1-ol | 134 mmol, 17.8 g, 77% | N1=C(C=CC=C1)C#CCO | C8H7NO
